US07713994B2
4-({4-[1-(4-Dimethylamino-but-2-enoyl)-pyrrolidin-2-yl]-phenylamino}-methylene)-6-iodo-4H-isoquinoline-1,3-dione
4-Dimethylamino-but-2-enoic acid hydrochloride salt (66 mg, 0.40 mmol) in N,N-dimethylformamide (1 mL) is treated with Et3N (0.06 mL) at 0° C. To the mixture is then added isobutylchloroformate (0.05 mL). The mixture is then stirred at this temperature for 30 min before addition of 6-Iodo-4-[(4-pyrrolidin-2-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione (80 mg, 0.17 mmol) in N,N-dimethylformamide (3 mL) dropwisely and the reaction is allowed to stir at room temperature overnight. After an aqueous workup, the final residue is purified with prep-TLC to afford the title compound (20 mg, 21%). 1H NMR (400 MHz, DMSO) δ12.52 (1H, d, J=12.4 Hz), 11.39-11.41 (1H, m), 8.90-8.94 (1H, m), 8.59 (1H, m), 7.21-7.75 (6H, m), 6.48-6.59 (1.4H, m), 6.01-6.05 (0.6H, m), 5.1-5.24 (1H, m), 3.57-3.91 (2H, m), 3.06-3.07 (1H, m), 2.82-2.84 (1H, m), 2.1-2.39 (2H, m), 2.18 (3H, s), 1.96 (3H, s), 1.77-1.95 (2H, m). MS (ESI): 571.0 (M+1)+1.

reactant | 4-Dimethylamino-but-2-enoic acid hydrochloride salt | 0.40 mmol, 66 mg | Cl.CN(CC=CC(=O)O)C
reactant | Et3N | 0.06 mL | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.05 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-Iodo-4-[(4-pyrrolidin-2-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 0.17 mmol, 80 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)C1NCCC1 | C20H18IN3O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-({4-[1-(4-Dimethylamino-but-2-enoyl)-pyrrolidin-2-yl]-phenylamino}-methylene)-6-iodo-4H-isoquinoline-1,3-dione | 20 mg, 21% | CN(CC=CC(=O)N1C(CCC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C | C26H27IN4O3
